US06423699B1
Isopropyl 7-(3-chlorophenyl)-3-thioxo-3,4-dihydroquinoxaline-1(2H)-carboxylate
Prepared according to the procedure for Example 24 from isopropyl 7-(3-chlorophenyl)-3-oxo-3,4-dihydroquinoxaline-1(2H)-carboxylate and Lawesson's reagent. A yellowish solid: m.p. 208-212° C.; 1H-NMR (DMSO-d6) δ 1.27 (d, J=6.1 Hz, 6H), 4.62 (s, 2H), 4.94 (sep, J=6.1 Hz, 1H), 7.23 (m, 4H), 7.64 (t, J=1.8 Hz, 1H), 7.90 (s, 1H), 12.80 (s, 1H), MS (ESI) m/z 359/361 (M−H)−.

reactant | isopropyl 7-(3-chlorophenyl)-3-oxo-3,4-dihydroquinoxaline-1(2H)-carboxylate | ClC=1C=C(C=CC1)C1=CC=C2NC(CN(C2=C1)C(=O)OC(C)C)=O | C18H17ClN2O3
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | Isopropyl 7-(3-chlorophenyl)-3-thioxo-3,4-dihydroquinoxaline-1(2H)-carboxylate | ClC=1C=C(C=CC1)C1=CC=C2NC(CN(C2=C1)C(=O)OC(C)C)=S | C18H17ClN2O2S
